* Subcircuit SC_SN74LS280
.subckt SC_SN74LS280 net-_u1-pad1_ net-_u1-pad2_ ? net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ? net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ ? 
* c:\fossee2\esim\library\subcircuitlibrary\sc_sn74ls280\sc_sn74ls280.cir
.include 3_and.sub
.include 4_OR.sub
x1 net-_u12-pad1_ net-_u13-pad1_ net-_u11-pad2_ net-_x1-pad4_ 3_and
x2 net-_u11-pad1_ net-_u13-pad1_ net-_u12-pad2_ net-_x13-pad2_ 3_and
x3 net-_u12-pad1_ net-_u11-pad1_ net-_u13-pad2_ net-_x13-pad3_ 3_and
x4 net-_u13-pad2_ net-_u12-pad2_ net-_u11-pad2_ net-_x13-pad4_ 3_and
x13 net-_x1-pad4_ net-_x13-pad2_ net-_x13-pad3_ net-_x13-pad4_ net-_u20-pad1_ 4_OR
* u20  net-_u20-pad1_ net-_u20-pad2_ d_inverter
* u2  net-_u1-pad8_ net-_u11-pad1_ d_inverter
* u3  net-_u1-pad9_ net-_u12-pad1_ d_inverter
* u4  net-_u1-pad10_ net-_u13-pad1_ d_inverter
* u11  net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u12  net-_u12-pad1_ net-_u12-pad2_ d_inverter
* u13  net-_u13-pad1_ net-_u13-pad2_ d_inverter
x5 net-_u15-pad1_ net-_u16-pad1_ net-_u14-pad2_ net-_x14-pad1_ 3_and
x6 net-_u14-pad1_ net-_u16-pad1_ net-_u15-pad2_ net-_x14-pad2_ 3_and
x7 net-_u15-pad1_ net-_u14-pad1_ net-_u16-pad2_ net-_x14-pad3_ 3_and
x8 net-_u16-pad2_ net-_u15-pad2_ net-_u14-pad2_ net-_x14-pad4_ 3_and
x14 net-_x14-pad1_ net-_x14-pad2_ net-_x14-pad3_ net-_x14-pad4_ net-_u21-pad1_ 4_OR
* u21  net-_u21-pad1_ net-_u21-pad2_ d_inverter
* u5  net-_u1-pad11_ net-_u14-pad1_ d_inverter
* u6  net-_u1-pad12_ net-_u15-pad1_ d_inverter
* u7  net-_u1-pad13_ net-_u16-pad1_ d_inverter
* u14  net-_u14-pad1_ net-_u14-pad2_ d_inverter
* u15  net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u16  net-_u16-pad1_ net-_u16-pad2_ d_inverter
x9 net-_u18-pad1_ net-_u10-pad2_ net-_u17-pad2_ net-_x15-pad1_ 3_and
x10 net-_u17-pad1_ net-_u10-pad2_ net-_u18-pad2_ net-_x10-pad4_ 3_and
x11 net-_u18-pad1_ net-_u17-pad1_ net-_u19-pad2_ net-_x11-pad4_ 3_and
x12 net-_u19-pad2_ net-_u18-pad2_ net-_u17-pad2_ net-_x12-pad4_ 3_and
x15 net-_x15-pad1_ net-_x10-pad4_ net-_x11-pad4_ net-_x12-pad4_ net-_u22-pad1_ 4_OR
* u22  net-_u22-pad1_ net-_u22-pad2_ d_inverter
* u8  net-_u1-pad1_ net-_u17-pad1_ d_inverter
* u9  net-_u1-pad2_ net-_u18-pad1_ d_inverter
* u10  net-_u1-pad4_ net-_u10-pad2_ d_inverter
* u17  net-_u17-pad1_ net-_u17-pad2_ d_inverter
* u18  net-_u18-pad1_ net-_u18-pad2_ d_inverter
* u19  net-_u10-pad2_ net-_u19-pad2_ d_inverter
x16 net-_u21-pad2_ net-_u22-pad2_ net-_u23-pad2_ net-_x16-pad4_ 3_and
x17 net-_u20-pad2_ net-_u22-pad2_ net-_u24-pad2_ net-_x17-pad4_ 3_and
x18 net-_u20-pad2_ net-_u21-pad2_ net-_u25-pad2_ net-_x18-pad4_ 3_and
x19 net-_u23-pad2_ net-_u24-pad2_ net-_u25-pad2_ net-_x19-pad4_ 3_and
x24 net-_x16-pad4_ net-_x17-pad4_ net-_x18-pad4_ net-_x19-pad4_ net-_u26-pad1_ 4_OR
* u23  net-_u20-pad2_ net-_u23-pad2_ d_inverter
x20 net-_u24-pad2_ net-_u25-pad2_ net-_u20-pad2_ net-_x20-pad4_ 3_and
x21 net-_u21-pad2_ net-_u23-pad2_ net-_u25-pad2_ net-_x21-pad4_ 3_and
x22 net-_u24-pad2_ net-_u23-pad2_ net-_u22-pad2_ net-_x22-pad4_ 3_and
x23 net-_u21-pad2_ net-_u20-pad2_ net-_u22-pad2_ net-_x23-pad4_ 3_and
x25 net-_x20-pad4_ net-_x21-pad4_ net-_x22-pad4_ net-_x23-pad4_ net-_u27-pad1_ 4_OR
* u24  net-_u21-pad2_ net-_u24-pad2_ d_inverter
* u26  net-_u26-pad1_ net-_u1-pad5_ d_inverter
* u27  net-_u27-pad1_ net-_u1-pad6_ d_inverter
* u25  net-_u22-pad2_ net-_u25-pad2_ d_inverter
a1 net-_u20-pad1_ net-_u20-pad2_ u20
a2 net-_u1-pad8_ net-_u11-pad1_ u2
a3 net-_u1-pad9_ net-_u12-pad1_ u3
a4 net-_u1-pad10_ net-_u13-pad1_ u4
a5 net-_u11-pad1_ net-_u11-pad2_ u11
a6 net-_u12-pad1_ net-_u12-pad2_ u12
a7 net-_u13-pad1_ net-_u13-pad2_ u13
a8 net-_u21-pad1_ net-_u21-pad2_ u21
a9 net-_u1-pad11_ net-_u14-pad1_ u5
a10 net-_u1-pad12_ net-_u15-pad1_ u6
a11 net-_u1-pad13_ net-_u16-pad1_ u7
a12 net-_u14-pad1_ net-_u14-pad2_ u14
a13 net-_u15-pad1_ net-_u15-pad2_ u15
a14 net-_u16-pad1_ net-_u16-pad2_ u16
a15 net-_u22-pad1_ net-_u22-pad2_ u22
a16 net-_u1-pad1_ net-_u17-pad1_ u8
a17 net-_u1-pad2_ net-_u18-pad1_ u9
a18 net-_u1-pad4_ net-_u10-pad2_ u10
a19 net-_u17-pad1_ net-_u17-pad2_ u17
a20 net-_u18-pad1_ net-_u18-pad2_ u18
a21 net-_u10-pad2_ net-_u19-pad2_ u19
a22 net-_u20-pad2_ net-_u23-pad2_ u23
a23 net-_u21-pad2_ net-_u24-pad2_ u24
a24 net-_u26-pad1_ net-_u1-pad5_ u26
a25 net-_u27-pad1_ net-_u1-pad6_ u27
a26 net-_u22-pad2_ net-_u25-pad2_ u25
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SC_SN74LS280